US08058313B2
4-((1E)-2-(((E)-2-Fluoro-4-cyanostyrylsulfonyl)methylsulfonyl)vinyl)-3-fluorobenzonitrile
A solution of 2-fluoro-4-cyanobenzaldehyde (2 mmol) and carboxymethane-sulfonylmethanesulfonyl-acetic acid (1 mmol) in acetic acid (10 mL) was subjected to General Procedure 1, to yield the title compound in 72% yield. m.p. 268-270° C.

reactant | 2-fluoro-4-cyanobenzaldehyde | 2 mmol | FC1=C(C=O)C=CC(=C1)C#N | C8H4FNO
reactant | carboxymethane-sulfonylmethanesulfonyl-acetic acid | 1 mmol | C(=O)(O)CS(=O)(=O)CS(=O)(=O)CC(=O)O | C5H8O8S2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 4-((1E)-2-(((E)-2-Fluoro-4-cyanostyrylsulfonyl)methylsulfonyl)vinyl)-3-fluorobenzonitrile | 72% yield | FC1=C(/C=C/S(=O)(=O)CS(=O)(=O)/C=C/C2=C(C=C(C#N)C=C2)F)C=CC(=C1)C#N | C19H12F2N2O4S2
